US08357693B2
To tert-butyl 5-(2-(3-(3,3-dimethylureido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (50 mg, 0.10 mmol) was added a solution of 1:1 TFA:CH2Cl2 (3 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and left under high vacuum for several hours. The crude product was triturated with ethyl ether and the yellow solid was purified by prep HPLC (method 25-50—70 mins) to afford 3-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-1,1-dimethylurea. (36 mg, 86%)

reactant | tert-butyl 5-(2-(3-(3,3-dimethylureido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.10 mmol, 50 mg | CN(C(NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O)C | C29H29N7O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-1,1-dimethylurea | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(C=CC1)NC(N(C)C)=O | C24H21N7O
